US06528653B2
5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide (30 mg, 0.17 mmol) was dissolved in a solution of 1% piperidine in 2-propanol (2 ml). 4-Methyl-5-imidazole carboxaldehyde (0.18 mmol, 15 mg) was added in one portion and the mixture heated at 75° C. for 1 hour. The reaction mixture was poured into an ice/water mixture (2 ml) and the precipitated solid was collected by filtration and washed with water to give 22 mg of (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide as a yellow/brown solid. MS(ES): m/e 275 [M+H].

reactant | 5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide | 0.17 mmol, 30 mg | O=C1CC2=C(N1)SC(=C2)C(=O)N | C7H6N2O2S
reactant | 4-Methyl-5-imidazole carboxaldehyde | 0.18 mmol, 15 mg | CC=1N=CNC1C=O | C5H6N2O
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | (Z)-5,6-dihydro-4-[(3-methoxy-1H-pyrrol-2-yl)methylene]-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide | 22 mg | COC1=C(NC=C1)\C=C/1\C2=C(NC1=O)SC(=C2)C(=O)N | C13H11N3O3S
